US06624294B2
5′-O-(4,4′-Dimethoxytrityl)-N2-isobutyryl-2′-O-(dimethylaminooxyethyl)guanosine
To N2-isobutyryl-2′-O-(dimethylaminooxyethyl) guanosine (42.63 g, 27.44 mmol) and dimethylaminopyridine (168 mg, 1.37 mmol) dissolved in anhydrous pyridine (274 mL) was added DMT-Cl (9.30 g, 27.44 mmol). After several hours additional DMT-Cl (9.30 g, 27.44 mmol) was added. After several more hours MeOH (22 mL, 543 mmol) was added, and the reaction mixture was stirred for 30 minute. The solvent was evaporated in vacuo to give an oil which was dissolved in EtOAc (550 mL). The resulting suspension was washed with a mixture of H2O (50 mL) and brine (25 mL) twice, then with brine (50 mL). NEt3 (5 mL) was added, the organic phase was dried with MgSO4 and the solvent was evaporated in vacuo to give a foam. The foam was purified by column chromatography (silica pretreated with 1% NEt3) using CH2Cl2-EtOAc-MeOH-NEt3, 75:25:10:1, to afford the title compound as a foam (16.3 g, 80%).

reactant | N2-isobutyryl-2′-O-(dimethylaminooxyethyl) guanosine | 27.44 mmol, 42.63 g | C(C(C)C)(=O)NC=1NC(C=2N=CN([C@H]3[C@H](OCCON(C)C)[C@H](O)[C@@H](CO)O3)C2N1)=O | C18H28N6O7
reactant | DMT-Cl | 27.44 mmol, 9.30 g | C(C1=CC=C(OC)C=C1)(C1=CC=C(OC)C=C1)(C1=CC=CC=C1)Cl | C21H19ClO2
reactant | DMT-Cl | 27.44 mmol, 9.30 g | C(C1=CC=C(OC)C=C1)(C1=CC=C(OC)C=C1)(C1=CC=CC=C1)Cl | C21H19ClO2
reactant | MeOH | 543 mmol, 22 mL | CO | CH4O
solvent | pyridine | 274 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 550 mL | CCOC(=O)C | C4H8O2
catalyst | dimethylaminopyridine | 1.37 mmol, 168 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | 5′-O-(4,4′-Dimethoxytrityl)-N2-isobutyryl-2′-O-(dimethylaminooxyethyl)guanosine | 16.3 g, 80% | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N2C=NC=3C(=O)NC(NC(C(C)C)=O)=NC23)OCCON(C)C)O)C=C1 | C39H46N6O9
